US08071824B2
JP-A-62-202091 describes the reaction of isobutyraldehyde with 2-nitrotoluene, which afforded only 2.2% 2-(2-nitrophenyl)-1-isopropylethanol.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | 2-nitrotoluene | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
product | 2-(2-nitrophenyl)-1-isopropylethanol | 2.2% | [N+](=O)([O-])C1=C(C=CC=C1)CC(O)C(C)C | C11H15NO3
